US06632826B1
Sodium hydride (60% w/w in mineral oil, 20 mg, 0.52 mmol) was added to a solution of 4-benzyl-5-(2-tert-butylcarbamoyl-5-hydroxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (200 mg, 0.40 mmol) in dry N,N-dimethylformamid (4 ml) stirred at 0° C. under nitrogen. The resulting mixture was stirred at 0° C. until gas evolution had ceased. Methyl iodide (40 μl, 0.6 mmol) was then added, and the solution was allowed to warm to room temperature and stirred for 20 hours. After removal of the volatiles in vacuo, the crude product was dissolved in ethyl acetate, washed twice with water, dried (anhydrous magnesium sulfate) and concentrated in vacuo. Purification by flash chromatography on silica gel provided 4-benzyl-5-(2-tert-butylcarbamoyl-5-methoxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester (125 mg, 96%).

reactant | Sodium hydride | 0.52 mmol, 20 mg | [H-].[Na+]
reactant | 4-benzyl-5-(2-tert-butylcarbamoyl-5-hydroxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 0.40 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CCC(C1)O)C(NC(C)(C)C)=O)(C)C | C29H46N2O5
reactant | Methyl iodide | 0.6 mmol, 40 μl | CI | CH3I
solvent | N,N-dimethylformamid | 4 ml | CN(C=O)C | C3H7NO
product | 4-benzyl-5-(2-tert-butylcarbamoyl-5-methoxy-cyclohexylmethyl)-2,2-dimethyl-oxazolidine-3-carboxylic acid tert-butyl ester | 125 mg, 96% | C(C)(C)(C)OC(=O)N1C(OC(C1CC1=CC=CC=C1)CC1C(CCC(C1)OC)C(NC(C)(C)C)=O)(C)C | C30H48N2O5
